US07259183B2
Preparation of [rac]-(4-tert-butyl-benzyl)-[3-(5-methyl-furan-2-yl)-butyl]-amine
0.26 ml of 4-tert-butylbenzylamine (1.5 mmol) and 346 mg of [rac]-3-(5-methyl-furan-2-yl)-butyraldehyde (2.25 mmol) were dissolved in 4.5 ml methanol at rt, and after stirring for 30 min at rt, were refluxed for 2.5 h. After cooling down to rt, 68 mg (1.8 mmol) of sodium borohydride were added and after stirring for 15 min at rt, the reaction mixture was then refluxed for 2¼ h. After cooling down to rt again 68 mg of sodium borohydride were added and the mixture was again refluxed for additional 18 h. After cooling down to rt, the reaction mixture was treated with 3 drops 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:2) to give 328 mg light yellow oil (73%). MS (ISP) 300.4 (M+H)+.

reactant | 4-tert-butylbenzylamine | 1.5 mmol, 0.26 ml | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | [rac]-3-(5-methyl-furan-2-yl)-butyraldehyde | 2.25 mmol, 346 mg | CC1=CC=C(O1)C(CC=O)C | C9H12O2
reactant | sodium borohydride | 1.8 mmol, 68 mg | [BH4-].[Na+]
reactant | sodium borohydride | 68 mg | [BH4-].[Na+]
solvent | methanol | 4.5 ml | CO | CH4O
catalyst | HCl | 1 N, 3 drops | Cl | ClH
product | [rac]-(4-tert-butyl-benzyl)-[3-(5-methyl-furan-2-yl)-butyl]-amine | 73% | C(C)(C)(C)C1=CC=C(CNCCC(C)C=2OC(=CC2)C)C=C1 | C20H29NO
